US08058449B2
2-[3-(5-Amino-1-tert-butoxycarbonyl-pentyl)-ureido]-pentanedioic acid di-tert-butyl ester (4).
To a solution of 2-[3-(5-Benzyloxycarbonylamino-1-tert-butoxycarbonyl-pentyl)-ureido]-pentanedioic acid di-tert-butyl ester (630 mg, 1.0 mmol) in ethanol (20 mL) was added ammonium formate (630 mg, 10 eqv) followed by 10% Pd—C and the suspension was allowed to stand with occasional agitation overnight until complete. The reaction was filtered through celite and concentrated to afford the desired product (479 mg, 98%) as a waxy solid. 1H NMR (400 MHz, CDCl3) δ 7.15-6.0 (bm, 4H, NH's), 4.29 (m, 2H), 3.02 (m, 2H), 2.33 (m, 2H), 2.06-1.47 (m, 8H), 1.45-1.40 (m, 27H, t-Bu's). ESMS m/z: 488 (M+H)+.

reactant | 2-[3-(5-Benzyloxycarbonylamino-1-tert-butoxycarbonyl-pentyl)-ureido]-pentanedioic acid di-tert-butyl ester | 1.0 mmol, 630 mg | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)NC(CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C32H51N3O9
reactant | ammonium formate | 630 mg, 10 eqv | C(=O)[O-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd—C | [Pd] | Pd
product | 2-[3-(5-Amino-1-tert-butoxycarbonyl-pentyl)-ureido]-pentanedioic acid di-tert-butyl ester | 479 mg, 98% | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)NC(CCCCN)C(=O)OC(C)(C)C)=O | C24H45N3O7
